US06869954B2
Preparation of 2-benzyl-4-dimethylaminomethyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow oil (yield: 92.7%).

reactant | 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)F)C | C20H19FN2O4S
reactant | dimethylamine | CNC | C2H7N
product | 2-benzyl-4-dimethylaminomethyl-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 92.7% | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)CN(C)C)C1=CC(=C(C=C1)F)C | C21H22FN3O
